### PR TITLE
[Merged by Bors] - feat(Algebra/Module/LinearMap/Basic): module structures of (semi)-linear maps over `DomMulAct` of a ring

### PR DESCRIPTION
**Pull request by jjaassoonn**
splitted from #8559

These are written by @alreadydone 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 1]
```diff
@@ -995,6 +1024,18 @@ instance module : Module S (M →ₛₗ[σ₁₂] M₂) where
 instance [NoZeroSMulDivisors S M₂] : NoZeroSMulDivisors S (M →ₛₗ[σ₁₂] M₂) :=
   coe_injective.noZeroSMulDivisors _ rfl coe_smul
 
+variable {S : Type*} [Semiring S] [Module S M]
+
+instance : Module Sᵈᵐᵃ (M →+ M₂) where
+  add_smul s s' f := AddMonoidHom.ext fun m ↦ by
+    simp_rw [AddMonoidHom.add_apply, DomMulAct.smul_addMonoidHom_apply, ← map_add, ← add_smul]; rfl
+  zero_smul _ := AddMonoidHom.ext fun _ ↦ by
+    erw [DomMulAct.smul_addMonoidHom_apply, zero_smul, map_zero]; rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap/Basic.lean:1033]: This seems like it's in the wrong place; can't you put it near the other module instance on additive maps?

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 2]
```diff
@@ -831,6 +832,27 @@ instance [DistribMulAction Sᵐᵒᵖ M₂] [SMulCommClass R₂ Sᵐᵒᵖ M₂]
...
+      map_add' := fun x y ↦ by simp only [DomMulAct.smul_apply, f.map_add, smul_add]
+      map_smul' := fun c x ↦ by simp_rw [DomMulAct.smul_apply, ← smul_comm, f.map_smulₛₗ] }⟩
+
+@[simp]
+theorem smul_apply' (a : S'ᵈᵐᵃ) (f : M →ₛₗ[σ₁₂] M₂) (x : M) :
+    (a • f) x = f (DomMulAct.mk.symm a • x) :=
+  rfl
+
+theorem coe_smul' (a : S'ᵈᵐᵃ) (f : M →ₛₗ[σ₁₂] M₂) : (a • f : M →ₛₗ[σ₁₂] M₂) = a • (f : M → M₂) :=
+  rfl
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean]: done

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 3]
```diff
@@ -831,6 +832,32 @@ instance [DistribMulAction Sᵐᵒᵖ M₂] [SMulCommClass R₂ Sᵐᵒᵖ M₂]
...
+
+@[simp]
+theorem _root_.DomMulAct.mk_smul_linearMap_apply (a : S') (f : M →ₛₗ[σ₁₂] M₂) (x : M) :
+    (DomMulAct.mk a • f) x = f (a • x) :=
+  rfl
+
+theorem  _root_.DomMulAct.coe_smul_linearMap (a : S'ᵈᵐᵃ) (f : M →ₛₗ[σ₁₂] M₂) :
+    (a • f : M →ₛₗ[σ₁₂] M₂) = a • (f : M → M₂) :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap/Basic.lean:856]: I renamed these lemmas to match the 6 or so that we already have. If you're not a fan of them, then let's rename all of them at once.

**Comment by eric-wieser** [comment]
bors d+

Thanks!

File: Mathlib/Algebra/Module/LinearMap/Basic.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean:856]: Thanks, I like your version better

**Comment by jjaassoonn** [comment]
Ones the CI passes, can you take another look before merging please @alreadydone

**Review by alreadydone — APPROVED** [review]
Thanks! LGTM

**Comment by jjaassoonn** [comment]
bors merge
